US08048872B2
Vinblastine sulfate was purchased from Asian Talent. A 610-mg sample of vinblastine sulfate was dissolved in 20 mL of dichloromethane and then it was shaken with 20 mL of 5% aqueous sodium carbonate. The organic layer was separated and aqueous solution was extracted with dichloromethane (2×20 mL) and then with chloroform (20 mL). The combined organic layer and extracts were dried over sodium sulfate and evaporated to dryness, affording 526 mg (97%) of vinblastine free base as a sticky white solid. The purity of vinblastine free base was checked by 1H 300 MHz NMR and HPLC (99.1% AUC) using a Varian CHROMSEP HPLC column SS 250×4.6 mm including holder with guard column, MICROSORB 100-5 C18; gradient: 30/70 (0.1% trifluoroacetic acid in acetonitrile)/(0.1% trifluoroacetic acid in water) to 100/0 (0.1% trifluoroacetic acid in acetonitrile)/(0.1% trifluoroacetic acid in water); detection at 254 nm and 270 nm.

reactant | Vinblastine sulfate | CC[C@@]1(C[C@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC)O.OS(=O)(=O)O
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | vinblastine | 526 mg, 97% | CC[C@@]1(C[C@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC)O | C46H58N4O9
